US04053615
2-Aminomethylthiophene and methyl acrylate are reacted in similar manner so that described in Examples 19 to give 2-[N,N-di(methoxycarbonylmethyl)aminomethyl]thiophene. b. 2-[N,N-Di(methoxycarbonylethyl)aminomethyl]thiophene is cyclized and decarboxylated in a similar manner to that described in Example 19 to give N-(2thienylmethyl)-4-piperidine.

reactant | 2-Aminomethylthiophene | NCC=1SC=CC1 | C5H7NS
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | 2-[N,N-di(methoxycarbonylmethyl)aminomethyl]thiophene | COC(=O)CN(CC(=O)OC)CC=1SC=CC1 | C11H15NO4S
